US06605624B1
Preparation of Methyl 2-(Difluoromethyl)-5-[(i-propylthio)carbonyl]-4-(cyclobutyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (Compound 14)
Methyl 5-chlorocarbonyl-4-cyclobutyl-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridinecarboxylate prepared similarly to the procedure in step 7 of U.S. Pat. No. 4,988,384 was reacted with 2-propanthiol according to the procedure in example 141 of U.S. Pat. No. 4,692,184 to give the product as an oil, nD25 1.4946.

reactant | Methyl 5-chlorocarbonyl-4-cyclobutyl-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | ClC(=O)C=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)C1CCC1 | C14H11ClF5NO3
reactant | 2-propanthiol | CC(C)S | C3H8S
product | Methyl 2-(Difluoromethyl)-5-[(i-propylthio)carbonyl]-4-(cyclobutyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | FC(C1=NC(=C(C(=C1C(=O)OC)C1CCC1)C(=O)SC(C)C)C(F)(F)F)F | C17H18F5NO3S
